US06696467B2
In analogy to example 47, on reaction of (S)-[1-(7-iodo-2-methyl-quinolin-4-yl)-pyrrolidin-2-yl]-methanol with trimethylacetamide there was obtained (S)-N-[4-(2-hydroxymethyl-pyrrolidin-1-yl)-2-methyl-quinolin-7-yl]-2,2-dimethyl-propionamide as amorphous white yellow solid. ISP mass spectrum, m/e: 342.3 (M+1 calculated for C20H27N3O2: 342).

reactant | (S)-[1-(7-iodo-2-methyl-quinolin-4-yl)-pyrrolidin-2-yl]-methanol | IC1=CC=C2C(=CC(=NC2=C1)C)N1[C@@H](CCC1)CO | C15H17IN2O
reactant | trimethylacetamide | CC(C(=O)N)(C)C | C5H11NO
product | (S)-N-[4-(2-hydroxymethyl-pyrrolidin-1-yl)-2-methyl-quinolin-7-yl]-2,2-dimethyl-propionamide | OC[C@H]1N(CCC1)C1=CC(=NC2=CC(=CC=C12)NC(C(C)(C)C)=O)C | C20H27N3O2
